US07482456B2
Step 1: 4-(3-bromophenyl)pyridine
Prepared according to the general procedure Coupling-1 using 4-pyridinylboronic acid and 1,3-dibromobenzene. Flash chromatography (Hexane:EtOAc, 70:30) afforded the title compound.

reactant | 4-pyridinylboronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | 1,3-dibromobenzene | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | Hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(3-bromophenyl)pyridine | BrC=1C=C(C=CC1)C1=CC=NC=C1 | C11H8BrN
